US06046136
B. Preparation of 4-Chloro-1-(5-trifluoromethyl-2-pyridyl) indazole N-Oxide
A mixture of 2-chloro-5-trifluoromethylpyridine N-Oxide (1.8 g, 0.009 mol), 4-chloroindazole (1.1 g, 0.007 mol), anhydrous potassium carbonate (1.5 g, 0.0105 mol) and dimethylformamide (20 ml) was stirred and warmed to 70° C. Within 1 hour the reaction was complete based on thin-layer chromatographic analysis. The solution was poured into brine (300 ml) and the precipitate was collected by suction filtration and was washed with water until the filtrate was clear. The brick-red solid was air dried to yield 1.6 g (73%) of the desired product, m.p. 154° C. (dec).

reactant | 2-chloro-5-trifluoromethylpyridine N-Oxide | 0.009 mol, 1.8 g | ClC1=[N+](C=C(C=C1)C(F)(F)F)[O-] | C6H3ClF3NO
reactant | 4-chloroindazole | 0.007 mol, 1.1 g | ClC1=C2C=NNC2=CC=C1 | C7H5ClN2
reactant | potassium carbonate | 0.0105 mol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 4-Chloro-1-(5-trifluoromethyl-2-pyridyl) indazole N-Oxide | 1.6 g, 73% | ClC1=C2C=N[N+](C2=CC=C1)(C1=NC=C(C=C1)C(F)(F)F)[O-] | C13H7ClF3N3O
